US07285563B2
2-Methoxy-4-(trifluoromethyl)benzoic acid
To a solution of 2-methoxy-4-(trifluoromethyl)benzonitrile (Description 94; 19 g, 94.4 mmol) in ethanol (150 ml) was added a solution of potassium hydroxide (26.43 g; 472 mmol) in water (100 ml) and the resulting mixture heated at reflux overnight. The mixture was cooled and the ethanol removed by evaporation, the remaining aqueous phase was extracted with diethyl ether then acidified with 5N HCl. The acidic aqueous phase was then extracted with EtOAc (3×200 ml) and the combined organic layers washed with water, sat NaCl, dried over Na2SO4, filtered and evaporated to give the title compound (19.91 g, 95%).

reactant | 2-methoxy-4-(trifluoromethyl)benzonitrile | 94.4 mmol, 19 g | COC1=C(C#N)C=CC(=C1)C(F)(F)F | C9H6F3NO
reactant | potassium hydroxide | 472 mmol, 26.43 g | [OH-].[K+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Methoxy-4-(trifluoromethyl)benzoic acid | 19.91 g, 95% | COC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C9H7F3O3
